US07071208B2
2-Amino-5-methoxypyridine (J. Med. Chem., 24:39, 1981; 2.02 g, 16.3 mmol) and 2-bromo-4-methyl-4-nitropentanal (16.3 mmol) are reacted as described in Amine 7 and the product is isolated in two crops from the concentrated mixture by heating twice with dichloromethane (30 ml and 10 ml) and filtration without further chromatographic purification to give 1.71 g of 3-(2-methyl-2-nitropropyl)-6-methoxyimidazo[1,2-a]pyridine (42%).

reactant | 2-Amino-5-methoxypyridine | 16.3 mmol, 2.02 g | NC1=NC=C(C=C1)OC | C6H8N2O
reactant | 2-bromo-4-methyl-4-nitropentanal | 16.3 mmol | BrC(C=O)CC(C)([N+](=O)[O-])C | C6H10BrNO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-(2-methyl-2-nitropropyl)-6-methoxyimidazo[1,2-a]pyridine | 1.71 g, 42% | CC(CC1=CN=C2N1C=C(C=C2)OC)(C)[N+](=O)[O-] | C12H15N3O3
